US04362728
A mixture of 2-thiocytosine (0.51 g.), dimethylformamide (5 ml.), N-(2-bromoethyl)phthalimide (1.12 g.) and 1,8-diazabicyclo[5,4,0]undec-5-ene (0.67 g.) was stirred at room temperature for 6 hours and then evaporated to dryness. The residue was stirred with a mixture of water and ethyl acetate and the insoluble material collected to give 4-amino-2-(2-phthalimidoethylthio)pyrimidine which was used without further purification.

reactant | 2-thiocytosine | 0.51 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | N-(2-bromoethyl)phthalimide | 1.12 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | 1,8-diazabicyclo[5,4,0]undec-5-ene | 0.67 g | N12CCCC=CC2NCCC1 | C9H16N2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-amino-2-(2-phthalimidoethylthio)pyrimidine | NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H12N4O2S
